US06515011B2
(S)-N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethylidene)-2-methylpropane-2-sulfinamide was prepared from (S)-(−)-2-methyl-2-propanesulfinamide and (tert-butyldimethylsilyloxy)acetaldehyde essentially according to the procedure of Barrow, J. C.; Ngo, P. L. Tetrahedron Lett. 2000, PAGES.

reactant | (S)-(−)-2-methyl-2-propanesulfinamide | CC(C)(C)[S@](=O)N | C4H11NOS
reactant | (tert-butyldimethylsilyloxy)acetaldehyde | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
product | (S)-N-(2-{[tert-butyl(dimethyl)silyl]oxy}ethylidene)-2-methylpropane-2-sulfinamide | [Si](C)(C)(C(C)(C)C)OCC=N[S@@](=O)C(C)(C)C | C12H27NO2SSi
